US04837392
Starting from 10.37 g (34.1 mmol) of tris(4-methylphenyl)phosphine and 6.7 g (48 mmol, 1.4 eq) of methyl iodide, 13.92 g (31.2 mmol, 91.5%) of methyltris(4-methylphenyl)phosphonium iodide was obtained: mp 213°-216° C.

reactant | tris(4-methylphenyl)phosphine | 34.1 mmol, 10.37 g | CC1=CC=C(C=C1)P(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | C21H21P
reactant | methyl iodide | 48 mmol, 6.7 g, 1.4 eq | CI | CH3I
product | methyltris(4-methylphenyl)phosphonium iodide | 31.2 mmol, 13.92 g, 91.5% | [I-].C[P+](C1=CC=C(C=C1)C)(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | InChI=1S/C22H24P.HI/c1-17-5-11-20(12-6-17)23(4,21-13-7-18(2)8-14-21)22-15-9-19(3)10-16-22;/h5-16H,1-4H3;1H/q+1;/p-1
